US08168784B2
reacting the 1-(4-chlorophenyl)-2-(diethoxymethyl)-4,4-dimethylcyclohexanol and aqueous hydrochloric acid to provide 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde and isolating or not isolating the 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde.

reactant | 1-(4-chlorophenyl)-2-(diethoxymethyl)-4,4-dimethylcyclohexanol | ClC1=CC=C(C=C1)C1(C(CC(CC1)(C)C)C(OCC)OCC)O | C19H29ClO3
reactant | hydrochloric acid | Cl | ClH
product | 2-(4-chlorophenyl)-5,5-dimethylcyclohex-1-ene-1-carbaldehyde | ClC1=CC=C(C=C1)C1=C(CC(CC1)(C)C)C=O | C15H17ClO
